US09167819B2
Step 2: Synthesis of 3-(N-cyano-S-methylsulfonimidoyl)-2-methoxy-N-(5-methyl-1,3,4-oxadiazol-2-yl)-4-(trifluoromethyl)benzamide
350 mg (80% by weight; 0.869 mmol) of 3-(N-cyano-S-methylsulfonimidoyl)-2-methoxy-4-(trifluoromethyl)benzoic acid and 151 mg (1.52 mmol) of 2-amino-5-methyl-1,3,4-oxadiazole were initially charged in 10 ml of dry pyridine and cooled in an ice bath. 207 mg (1.63 mmol) of oxalyl chloride were added, and after 30 minutes the mixture was thawed to RT. The contents were stirred at RT for 2 h, and another 51.8 mg (0.408 mmol) of oxalyl chloride were then added. The mixture was then stirred at RT for 16 h. For work-up, the contents were freed from the solvent on a rotary evaporator and the residue was taken up in water and dichloromethane. After phase separation, the organic phase was freed from the solvent on a rotary evaporator and the residue was purified chromatographically under neutral conditions, which gave 9.80 mg of product.

reactant | 3-(N-cyano-S-methylsulfonimidoyl)-2-methoxy-4-(trifluoromethyl)benzoic acid | 0.869 mmol, 350 mg | C(#N)N=S(=O)(C)C=1C(=C(C(=O)O)C=CC1C(F)(F)F)OC | C11H9F3N2O4S
reactant | 2-amino-5-methyl-1,3,4-oxadiazole | 1.52 mmol, 151 mg | NC=1OC(=NN1)C | C3H5N3O
reactant | oxalyl chloride | 1.63 mmol, 207 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.408 mmol, 51.8 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(N-cyano-S-methylsulfonimidoyl)-2-methoxy-N-(5-methyl-1,3,4-oxadiazol-2-yl)-4-(trifluoromethyl)benzamide | 9.80 mg | C(#N)N=S(=O)(C)C=1C(=C(C(=O)NC=2OC(=NN2)C)C=CC1C(F)(F)F)OC | C14H12F3N5O4S
